US08877780B2
TEA (0.28 ml, 2 mmol) was added to a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione (0.37 g, 1 mmol) and 4-chloro-1-isocyanato-2-methyl-benzene (0.17 mgl, 1 mmol) in acetonitrile (10 mL) under nitrogen. The mixture was stirred at ambient temperature for 1 h, during which time it remained a suspension. The reaction was then monitored and determined to be complete. A 3.5% aqueous HCl solution (10 mL) was added, and the mixture was stirred for 10 minutes. The solid was isolated by filtration, and the solid was washed with additional 3.5% aq. HCl (20 mL) and acetonitrile (20 mL), yielding 1-(4-chloro-2-methyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (380 mg, 90%). HPLC: Waters Symmetry C-18, 3.9×150 mm, 5 micro, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4 in H2O: tR=3.6 min (99%); mp. 256-258° C. 1H NMR (DMSO-d6) δ 1.93-2.08 (m, 1H, CH—H), 2.19 (s, 3H, CH3), 2.31-2.47 (m, 1H, CH—H), 2.63 (br. s., 1H, CHH), 2.82-3.00 (m, 1H, CuI), 4.27-4.51 (m, 4H, CH2, CHH), 5.11 (dd, J=5.2, 13.3 Hz, 1H, CHN), 7.09-7.24 (m, 3H, Ar), 7.46 (d, J=7.7 Hz, 1H, Ar), 7.53 (s, 1H, NH), 7.71 (d, J=7.7 Hz, 1H, Ar), 7.87 (d, J=3.4 Hz, 1H, Ar), 7.90 (s, 1H, NH), 10.99 (s, 1H, NH); 13C NMR (DMSO-d6) δ 17.61, 22.49, 31.20, 42.83, 47.12, 51.58, 121.64, 121.98, 122.99, 125.36, 125.77, 126.97, 129.04, 129.46, 130.36, 137.14, 142.42, 144.58, 155.22, 167.92, 170.99, 172.85; LCMS MH=441. Anal Calcd for: C22H21ClN4O4+0.2H2O: C, 59.45; H, 4.85; N, 12.60; Cl, 7.98. found: C, 59.21; H, 4.71; N, 12.46; Cl, 8.21.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione | 1 mmol, 0.37 g | NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C14H15N3O3
reactant | 4-chloro-1-isocyanato-2-methyl-benzene | 1 mmol | ClC1=CC(=C(C=C1)N=C=O)C | C8H6ClNO
reactant | HCl | 10 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(4-chloro-2-methyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 380 mg, 90% | ClC1=CC(=C(C=C1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)C | C22H21ClN4O4
